US09351974B2
Step c: Synthesis of methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-(4-oxocyclohexyl)-D-alaninate
A stirred solution of methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-1,4-dioxaspiro[4.5]dec-8-yl-D-alaninate (17 g, 42.5 mmol) in dioxane (450 mL, contains 1M HCl) was heated to reflux for 16 h. The bulk of solvent was then removed under reduced pressure, the crude material was neutralized with aq. NaHCO3, and extracted with ethyl acetate (300 mL×3). Organic layers were combined, dried over sodium sulfate, and evaporated to give the crude material, which was then purified by silica gel column chromatography to give the desired product (10 g). 1HNMR (300 MHz, CDCl3): δ 1.66 (d, J=6.9 Hz, 3H), 1.99-2.18 (m, 2H), 2.34-2.57 (m, 6H), 3.56-3.59 (m, 1H), 3.76 (s, 3H), 4.04 (q, J=6.9, 13.8 Hz, 1H), 8.70 (s, 1H).

reactant | methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-1,4-dioxaspiro[4.5]dec-8-yl-D-alaninate | 42.5 mmol, 17 g | ClC1=NC=C(C(=N1)N([C@H](C)C(=O)OC)C1CCC2(OCCO2)CC1)[N+](=O)[O-] | C16H21ClN4O6
solvent | dioxane | 1M, 450 mL | O1CCOCC1 | C4H8O2
product | methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-(4-oxocyclohexyl)-D-alaninate | 10 g | ClC1=NC=C(C(=N1)N([C@H](C)C(=O)OC)C1CCC(CC1)=O)[N+](=O)[O-] | C14H17ClN4O5
